US07964607B2
1-cyclopentyl-6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-4-yl)methyl]pyrrolidin-3-yl}-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
Following the procedure for the preparation of 1-cyclopentyl-6-[(3,4-trans)-4-methyl-1-(pyridin-3-ylmethyl)pyrrolidin-3-yl]-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one but substituting 1-cyclopentyl-6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one and 2-methylpyrimidine-4-carbaldehyde provided the title compound. 400 MHz 1H NMR (CDCl3) δ 8.60 (d, J=5.4 Hz, 1H), 8.03 (s, 1H), 7.24 (s, 1H), 5.18-5.10 (m, 1H), 3.97-3.94 (m, 1H), 3.72-3.68 (m, 1H), 3.40 (t, J=8.3 Hz, 1H), 3.15 (d, J=9.5 Hz, 1H), 2.89 (m, 1H), 2.73 (s, 3H), 2.68-2.63 (m, 1H), 2.53-2.47 (m, 1H), 2.15-1.89 (m, 7H), 1.74-1.65 (m, 2H), 1.21 (d, J=7.1 Hz, 3H). MS: (M+H m/z=394.1).

reactant | 1-cyclopentyl-6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one | C1(CCCC1)N1N=CC2=C1N=C(NC2=O)[C@@H]2CNC[C@H]2C | C15H21N5O
reactant | 2-methylpyrimidine-4-carbaldehyde | CC1=NC=CC(=N1)C=O | C6H6N2O
product | 1-cyclopentyl-6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-4-yl)methyl]pyrrolidin-3-yl}-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C1(CCCC1)N1N=CC2=C1N=C(NC2=O)[C@@H]2CN(C[C@H]2C)CC2=NC(=NC=C2)C | C21H27N7O
